US05622976
The mixture of 2-acetoxy-5-(1-benzylpiperidin-4-yl)-1-(4-nitrobenzoyloxyimino)pentylamine (1.5 g) and molecular sieves 4A (7.5 g) in dioxane (50 ml) was refluxed for 2 hours. After molecular sieves were removed by filtration, the filtrate was evaporated in vacuo. The residue was chromatographed on silica eluting with 3% methanol in chloroform to give 3-[1-acetoxy-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole (0.63 g, 43.6%). The compound (74 mg) was dissolved in a solution of fumaric acid (18 mg) in ethanol to give 3-[1-acetoxy-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole fumarate (80 mg).

reactant | 2-acetoxy-5-(1-benzylpiperidin-4-yl)-1-(4-nitrobenzoyloxyimino)pentylamine | 1.5 g | C(C)(=O)OC(C(=NOC(C1=CC=C(C=C1)[N+](=O)[O-])=O)N)CCCC1CCN(CC1)CC1=CC=CC=C1 | C26H32N4O6
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-[1-acetoxy-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole | 0.63 g, 43.6% | C(C)(=O)OC(CCCC1CCN(CC1)CC1=CC=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C26H30N4O5
